US08168821B2
Methyl 4-[4-[1-(2-ethoxy-2-oxoethyl)cyclopropyl]-2-(hydroxymethyl)butyl]benzoate
At −10° C., 12.31 ml of a 1 M borane/THF complex solution (12.31 mmol) are added dropwise to a solution of 2.23 g (6.15 mmol) of 4-[1-(2-ethoxy-2-oxoethyl)cyclopropyl]-2-[4-(methoxy-carbonyl)benzyl]butanoic acid in 50 ml of THF. After warming to 0° C., the mixture is stirred at this temperature for another 2 hours and then at room temperature for 1 hour. After complete conversion, saturated ammonium chloride solution is added, and the reaction mixture is extracted three times with in each case 50 ml of ethyl acetate. The combined organic phases are then dried over sodium sulfate, and the solvent is evaporated to dryness. The crude product obtained is purified by flash chromatography on silica gel (mobile phase: cyclohexane/ethyl acetate 2:1). This gives 1680 mg (78% of theory) of a colorless oil.

reactant | 4-[1-(2-ethoxy-2-oxoethyl)cyclopropyl]-2-[4-(methoxy-carbonyl)benzyl]butanoic acid | 6.15 mmol, 2.23 g | C(C)OC(CC1(CC1)CCC(C(=O)O)CC1=CC=C(C=C1)C(=O)OC)=O | C20H26O6
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | Methyl 4-[4-[1-(2-ethoxy-2-oxoethyl)cyclopropyl]-2-(hydroxymethyl)butyl]benzoate | C(C)OC(CC1(CC1)CCC(CC1=CC=C(C(=O)OC)C=C1)CO)=O | C20H28O5
